US06124354
3-Quinuclidinyl 1-(3-nitrophenyl)cyclobutanecarboxylate Hydrochloride
The title compound was prepared in an analogous manner to that in Example 36. 1-(3-Nitrophenyl)cyclobutanecarbonyl chloride, prepared from the compound prepared in Example 33, was reacted with 3-quinuclidinol in CH2Cl2 for 2 h. The crude was chromatographed on silica gel using EtOAc-Et3N 90:10 as eluent. The yield was 0.4 g (26%); mp 191-192° C.; 1H NMR (CD3OD) δ 1.73-2.29 (m, 7H), 2.62 (m, 2H), 2.94 (m, 2H), 3.02-3.36 (m, 5H), 3.65-3.75 (m, 1H), 5.10 (m, 1H), 7.60-7.66 (m, 1H), 7.74-7.78 (m, 1H), 8.13-8.18 (m, 2H). Anal. (C18H22N2O4.HCl) C, H, N.

reactant | 1-(3-Nitrophenyl)cyclobutanecarbonyl chloride | [N+](=O)([O-])C=1C=C(C=CC1)C1(CCC1)C(=O)Cl | C11H10ClNO3
reactant | 3-quinuclidinol | N12CC(C(CC1)CC2)O | C7H13NO
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 3-Quinuclidinyl 1-(3-nitrophenyl)cyclobutanecarboxylate Hydrochloride | Cl.[N+](=O)([O-])C=1C=C(C=CC1)C1(CCC1)C(=O)OC1CN2CCC1CC2 | InChI=1S/C18H22N2O4.ClH/c21-17(24-16-12-19-9-5-13(16)6-10-19)18(7-2-8-18)14-3-1-4-15(11-14)20(22)23;/h1,3-4,11,13,16H,2,5-10,12H2;1H
